US06826033B2
To a solution of (S)-N-[4-(2-amino-3-hydroxypropyl)phenyl)benzamide (207 mg) and benzaldehyde (106 mg) in 1,4-dioxane (5 ml) was refluxed for 3 hours, and the mixture was evaporated in vacuo. To the residue in methanol (5 ml) was added sodium borohydride (15 mg) on ice-cooling, and stirred at the same temperature for 1 hour. The resulting mixture was poured into saturated aqueous sodium bicarbonate solution, and extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was chromatographed (hexane-ethyl acetate) over silica gel to afford (S)-N-[4-[2-(benzylamino)-3-hydroxypropyl]phenyl]benzamide (250 mg) as colorless oil.

reactant | (S)-N-[4-(2-amino-3-hydroxypropyl)phenyl)benzamide | 207 mg | N[C@@H](CC1=CC=C(C=C1)NC(C1=CC=CC=C1)=O)CO | C16H18N2O2
reactant | benzaldehyde | 106 mg | C(C1=CC=CC=C1)=O | C7H6O
solvent | 1,4-dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | (S)-N-[4-[2-(benzylamino)-3-hydroxypropyl]phenyl]benzamide | 250 mg | C(C1=CC=CC=C1)N[C@@H](CC1=CC=C(C=C1)NC(C1=CC=CC=C1)=O)CO | C23H24N2O2
